US05733913
6-(2-Bromo-6-chloro-phenyl)-pyrido[2,3-d]pyrimidine-2,7-diamine
Prepared as described in Example 1, starting from 1.0 g of 2-bromo-6-chlorophenylacetonitrile and 0.57 g of 2,4-diamino-5-pyrimidine-carboxaldehyde, mp 264°-280° C.; MS(CI).

reactant | 2-bromo-6-chlorophenylacetonitrile | 1.0 g | BrC1=C(C(=CC=C1)Cl)CC#N | C8H5BrClN
reactant | 2,4-diamino-5-pyrimidine-carboxaldehyde | 0.57 g | NC1=NC=C(C(=N1)N)C=O | C5H6N4O
product | 6-(2-Bromo-6-chloro-phenyl)-pyrido[2,3-d]pyrimidine-2,7-diamine | BrC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)N)N=C1N | C13H9BrClN5
